US05985886
EXAMPLE 1 a) 1-Methoxy-3,4methylenedioxybenzene
To a solution of sesamol (10.0 g, 0.072 mol) in DMF (50 ml) was added sodium hydride (2.08 g, 0.087 mol) at room temperature under argon. After stirring for 1 h, the mixture was treated with iodometharc (13.5 ml. 0.216 mol) and stirred for another 18 h. Upon the removal of the solvent the residue was extracted with ethyl acetate and washed with water, dried (Na2SO4) and concentrated to afford the title compound as a dark brown oil (10.5 g, 96%).

reactant | sesamol | 0.072 mol, 10.0 g | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | sodium hydride | 0.087 mol, 2.08 g | [H-].[Na+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-Methoxy-3,4methylenedioxybenzene | 10.5 g, 96% | COC1=CC2=C(C=C1)OCO2 | C8H8O3
